US08350028B2
2-Chloro-6-nitro-quinoline (0.80 g, 4.0 mmol) and 2-methoxybenzylamine (1.5 mL, 12 mmol) were heated at 130° C. for 2 h. The reaction mixture was purified by flash chromatography on silica gel (heptane/ethyl acetate, 9:1, 4:1, 1:1). (2-Methoxy-benzyl)-(6-nitro-quinolin-2-yl)-amine was obtained as a yellow solid (0.5 g, 42%), MS: m/e=310.5 (M+H+).

reactant | 2-Chloro-6-nitro-quinoline | 4.0 mmol, 0.80 g | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | 2-methoxybenzylamine | 12 mmol, 1.5 mL | COC1=C(CN)C=CC=C1 | C8H11NO
product | (2-Methoxy-benzyl)-(6-nitro-quinolin-2-yl)-amine | COC1=C(CNC2=NC3=CC=C(C=C3C=C2)[N+](=O)[O-])C=CC=C1 | C17H15N3O3
